US08748613B2
Preparation of (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(2-oxopyrrolidin-1-yl)-2-phenylacetoxy)-1-azoniabicyclo[2.2.2]octane chloride (C80)
2-Chloro-1-phenylethanone (62.1 mg, 0.40 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(2-oxopyrrolidin-1-yl)-2-phenylacetate (120 mg, 0.36 mmol) in EtOAc (2.4 ml) and acetonitrile (1.2 ml). The pale yellow solution was stirred at room temperature for three days. The solvent was evaporated and the crude was purified by flash chromatography (DCM/MeOH=9/1) to collect the title compound (118 mg, 66.9% yield) as an off-white spongy solid.

reactant | 2-Chloro-1-phenylethanone | 0.40 mmol, 62.1 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(2-oxopyrrolidin-1-yl)-2-phenylacetate | 0.36 mmol, 120 mg | O=C1N(CCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C19H24N2O3
solvent | EtOAc | 2.4 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(2-oxopyrrolidin-1-yl)-2-phenylacetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 118 mg, 66.9% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)N2C(CCC2)=O)=O)C2=CC=CC=C2 | InChI=1S/C27H31N2O4.ClH/c30-23(20-8-3-1-4-9-20)18-29-16-13-21(14-17-29)24(19-29)33-27(32)26(22-10-5-2-6-11-22)28-15-7-12-25(28)31;/h1-6,8-11,21,24,26H,7,12-19H2;1H/q+1;/p-1/t21?,24-,26?,29?;/m0./s1
